US06949542B2
(2-Nitro-5-propoxy-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared via the di-Boc-compound from 5-(2-methoxy-ethoxy)-2-nitro-4-trifluoromethyl-phenylamine [prepared by stirring commercially available 5-chloro-2-nitro-4-trifluoromethyl-phenylamine [CAS-No. 35375-74-7] (12.03 g, 50 mmol), n-propanol (30 mL) and KOH (7.26 g, 110 mmol) in DMSO (100 mL) at 60° C. for 8 days] (4.83 g, 13.3 mmol) and Boc2O (8.38 g, 38.4 mmol), followed by treatment with 2 eq. TFA in CH2Cl2 according to the general procedure A (method c). Obtained as an orange solid (6.62 g, 99%).

reactant | 5-(2-methoxy-ethoxy)-2-nitro-4-trifluoromethyl-phenylamine | COCCOC=1C(=CC(=C(C1)N)[N+](=O)[O-])C(F)(F)F | C10H11F3N2O4
reactant | 5-chloro-2-nitro-4-trifluoromethyl-phenylamine | 50 mmol, 12.03 g | ClC=1C(=CC(=C(C1)N)[N+](=O)[O-])C(F)(F)F | C7H4ClF3N2O2
reactant | KOH | 110 mmol, 7.26 g | [OH-].[K+]
reactant | Boc2O | 38.4 mmol, 8.38 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | n-propanol | 30 mL | C(CC)O | C3H8O
product | (2-Nitro-5-propoxy-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCCC)C(F)(F)F)[N+](=O)[O-])=O | C15H19F3N2O5
